US06448345B1
20.1 parts of aminoundecanoic acid and 116.2 parts of butyl acetate were placed in a reactor equipped with a thermometer, a thermostat, a stirrer and a condenser, and allowed to react at 120° C. for 8 hours while azeotropically distilling off butanol. Further, 58.1 parts of butyl acetate was added, and allowed to react at 120° C. for 3 hours. Butanol and excess butyl acetate were distilled off under reduced pressure, thus giving an acetoamidoundecanoic acid. Then, 48.6 parts of the obtained acetoamidoundecanoic acid, 345 parts of dodecanoic diacid and 326.4 parts of acetic anhydride were placed in a reactor equipped with a thermometer, a thermostat, a stirrer and a condenser, and heated to 170° C. with stirring while distilling off acetic acid. After the distillation of acetic acid ceased, pressure was reduced to 30 mmHg at 170° C., followed by cooling the reaction mixture, thus giving an acid anhydride (a-4).

reactant | aminoundecanoic acid | NC(C(=O)O)CCCCCCCCC | C11H23NO2
reactant | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | acetoamidoundecanoic acid | C(C)(=O)NC(C(=O)O)CCCCCCCCC | C13H25NO3
